US06780855B2
16 g of 1-benzyloxy-8,8,9,9,9-pentafluoro-nonane is dissolved in 700 ml of absolute methylene chloride, mixed with 18.4 ml of N,N-dimethylaniline at 0° C. and stirred for 5 minutes. Then, 26.4 g of aluminum trichloride is added in portions, and the reaction mixture is heated for 45 minutes to 50° C. For working-up, the batch is allowed to come to room temperature, it is stirred into 2N hydrochloric acid, extracted 3 times with methylene chloride, dried on magnesium sulfate and concentrated by evaporation in a vacuum. The crude product is chromatographed on silica gel with a hexane-ethyl acetate gradient. 8.6 g of 8,8,9,9,9-pentafluoro-nonan-1-ol is obtained as an oil.

reactant | 1-benzyloxy-8,8,9,9,9-pentafluoro-nonane | 16 g | C(C1=CC=CC=C1)OCCCCCCCC(C(F)(F)F)(F)F | C16H21F5O
reactant | N,N-dimethylaniline | 18.4 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | aluminum trichloride | 26.4 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methylene chloride | 700 ml | C(Cl)Cl | CH2Cl2
product | 8,8,9,9,9-pentafluoro-nonan-1-ol | 8.6 g | FC(CCCCCCCO)(C(F)(F)F)F | C9H15F5O
